datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)[O-:12]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]([C:11](=[O:12])[O:61]CC)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:82][C:71]([N-:10][C:61](C)=[O:62])=[O:72].CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC[O:82][C:71]([N:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=C(F)C(F)=C(F)C(F)=C2F)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:61](C)=[O:62])=[O:72] 10=20;20,21=21,22;22,23=23"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C[Si:63](C)(C)[O:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[Si:63](C)(C)[O+:12]=[C:11]([CH2:10][CH:20]([N:21]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].COC1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([S+:11](C)C)[C:61](C1=CC=C(OC)C=C1)=[O:62])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=CC=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=CC=C2)[CH:20]([C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].COC1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C)=[O:64])C=C1>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C:11](C1=CC=C(OC)C=C1)=[NH+:12][C:63](C)=[O:64])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].C[CH:10]=[C:11](C)C>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10](C)[C+:11](C)C)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:63]2=[C:62]([CH:11]=[CH:10]1)[CH:67]=[CH:66][CH:65]=[CH:64]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CC[C:63]3=[C:62]([CH+:11]2)[CH:67]=[CH:66][CH:65]=[CH:64]3)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1=CC=C([S:61]([CH-:10][C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1.C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1>>C1=CC=C([S:61]([CH:10]([CH:20]2CC[O:33][C:22]([O-:23])=[CH:21]2)[C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1 10=20;20,21=21,22;22,23=23"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.CC1(C)[O:62][C:11]([O-:12])=[C:10]([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1>>CC1(C)[O:62][C:11](=[O:12])[C:10]([CH:20]([C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1 10,11=10,20;12=11,12"
"C[Si](C)(C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:84]=[CH:83]1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>C[Si](C)(C)[C+:11]([CH2:10][C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl)[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:84]=[CH:83]1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.CC[O:12][C:11](=[CH:10]C)[O:62]CC>>CC[O+:12]=[C:11]([CH:10](C)[CH:20]1CCC[C:22]([O-:23])=[CH:21]1)[O:62]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15.C[N:82]1[C:11]([O-:12])=[C:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84]>>C[CH:20](C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[C:10]1([I+:61]C2=CC=CC=C2)[C:11](=[O:12])[N:82](C)[C:83](=[O:84])[N:102](C)[C:91]1=[O:92] 10,11=10,20;12=11,12;20,21=21"
